US07691850B2
e) 4-Chloro-6-(methyloxy)-3-quinolinecarboxamide
To a suspension of dried 4-bromo-6-(methyloxy)-3-quinolinecarboxylic acid (1.4 g, 5 mmol) in CH2Cl2 (20 mL) at 0° C. was added oxalyl chloride (2M in CH2Cl2, 5.0 mL, 10 mmol). After 1 h, an aliquot was quenched with NH4OH and LCMS indicated desired product was formed. Excess NH4OH (2 mL) was slowly added to the reaction solution, maintained at 0° C. (very exothermic), and the reaction was stirred an additional 2 h. The product was isolated via filtration to give 1.0 g (83%).

reactant | 4-bromo-6-(methyloxy)-3-quinolinecarboxylic acid | 5 mmol, 1.4 g | BrC1=C(C=NC2=CC=C(C=C12)OC)C(=O)O | C11H8BrNO3
reactant | oxalyl chloride | 10 mmol, 2M, 5.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | 2 mL | [NH4+].[OH-]
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-6-(methyloxy)-3-quinolinecarboxamide | ClC1=C(C=NC2=CC=C(C=C12)OC)C(=O)N | C11H9ClN2O2
